US04284631
7-[2-(2-Formamidothiazol-4-yl)-2-(4-tertbutoxycarbonylaminomethylbenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.4 g.), conc. hydrochloric acid (0.95 g.) and methanol (15 ml.) were treated in a similar manner to that of Example 4-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-(4-aminomethyl benzyloxyimino)acetamido]-3-cephem-4-carboxylic acid dihydrochloride (syn isomer, 0.9 g.).

reactant | 7-[2-(2-Formamidothiazol-4-yl)-2-(4-tertbutoxycarbonylaminomethylbenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid | 1.4 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=CC=C(C=C1)CNC(=O)OC(C)(C)C | C26H28N6O8S2
reactant | hydrochloric acid | 0.95 g | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(4-aminomethyl benzyloxyimino)acetamido]-3-cephem-4-carboxylic acid dihydrochloride | 0.9 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=CC=C(C=C1)CN | InChI=1S/C20H20N6O5S2.2ClH/c21-7-10-1-3-11(4-2-10)8-31-25-14(12-9-33-20(22)23-12)16(27)24-15-17(28)26-13(19(29)30)5-6-32-18(15)26;;/h1-5,9,15,18H,6-8,21H2,(H2,22,23)(H,24,27)(H,29,30);2*1H/t15?,18-;;/m1../s1
